US05929085
(c) 3-Methyl-7-amino-1,2,3,4-tetrahydroisoquinoline
3-Methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline (3.0 g, 13.1 mmol) was dissolved in MeOH (100 ml) and hydrogenated at 50 psi in the presence of a catalytic quantity of 10% Pd-C. After 1 h the mixture was filtered through glass and evaporated to an oil which was used immediately in the next reaction.

reactant | 3-Methyl-7-nitro-1,2,3,4-tetrahydroisoquinoline | 13.1 mmol, 3.0 g | CC1NCC2=CC(=CC=C2C1)[N+](=O)[O-] | C10H12N2O2
solvent | MeOH | 100 ml | CO | CH4O
solvent | Pd-C | [Pd] | Pd
product | 3-Methyl-7-amino-1,2,3,4-tetrahydroisoquinoline | CC1NCC2=CC(=CC=C2C1)N | C10H14N2
